US07935699B2
Formyl-benzoic acid methyl ester (1.00 g, 6.10 mmol) was dissolved in tetrahydrofuran (15 mL), under argon, and chilled to 0° C. A 2.0 M solution of propyl magnesium chloride in diethyl ether (3.05 mL, 6.1 mmol) was added dropwise and the reaction continued to stir at 0° C. for 45 min. 1.0 M aqueous hydrochloric acid solution (10 mL) was added to the reaction and the solution stirred vigorously for 10 min. The solution was diluted with ethyl acetate (100 mL), washed with 1.0 M aqueous hydrochloric acid solution (20 mL), saturated aqueous brine solution (10 mL), dried over magnesium sulfate and concentrated in vacuo to a clear oil. Purification by ISCO flash column chromatography (Teledyne Isco RediSep Flash Column 40 g; 0% ethyl acetate/hexanes to 25% ethyl acetate/hexanes) afforded 4-(1-hydroxy-butyl)-benzoic acid methyl ester (610 mg, 48%) as a clear oil: H1-NMR (400 MHz, CDCl3) δ 0.94 (3H, t, J=7.2 Hz), 1.22-1.52 (2H, m), 1.62-1.84 (2H, m), 2.00 (1H, s), 3.91 (3H, s), 4.74 (1H, t, J=6.8 Hz), 7.40 (2H, d, J=8.4 Hz), 7.99 (2H, d, J=8.0 Hz).

reactant | Formyl-benzoic acid methyl ester | 6.10 mmol, 1.00 g | COC(C1=C(C=CC=C1)C=O)=O | C9H8O3
reactant | propyl magnesium chloride | C(CC)[Mg]Cl
reactant | diethyl ether | 6.1 mmol, 3.05 mL | C(C)OCC | C4H10O
reactant | hydrochloric acid | 1.0 M, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-(1-hydroxy-butyl)-benzoic acid methyl ester | 610 mg, 48% | COC(C1=CC=C(C=C1)C(CCC)O)=O | C12H16O3
